US07429583B2
a) tert-butyl [3-methyl-3-(5-methyl-2-nitro-phenylamino)-butyl]-carbamate
2.0 g (12.9 mmol) 3-fluoro-4-nitro-toluene, 2.6 g (13.0 mmol) tert-butyl (3-amino-3-methyl-butyl)-carbamate and 2.3 g (16.8 mmol) potassium carbonate are stirred overnight at ambient temperature in 20 mL DMF. The solvent is distilled off and the residue is combined with ethyl acetate. The mixture is washed repeatedly with water, dried with sodium sulphate and the solvent is eliminated. 4.8 g yellow oil. Mass spectroscopy: [M+H]+=338.

reactant | 3-fluoro-4-nitro-toluene | 12.9 mmol, 2.0 g | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
reactant | tert-butyl (3-amino-3-methyl-butyl)-carbamate | 13.0 mmol, 2.6 g | NC(CCNC(OC(C)(C)C)=O)(C)C | C10H22N2O2
reactant | potassium carbonate | 16.8 mmol, 2.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl [3-methyl-3-(5-methyl-2-nitro-phenylamino)-butyl]-carbamate | CC(CCNC(OC(C)(C)C)=O)(C)NC1=C(C=CC(=C1)C)[N+](=O)[O-] | C17H27N3O4
